US07705027B2
Ammonium formate (172 mg, 20 eq) was added to a solution of 2,4-Bis-benzyloxy-5-[4-(4-methoxy-phenyl)-3-methyl-isoxazol-5-yl]-benzoic acid methyl ester (72 mg, 0.13 mmol) in methanol (2 ml)/ethyl acetate (1 ml) under a nitrogen atmosphere. 10% Palladium on carbon (cat.) was added and the suspension heated at 60° C. overnight. The solution was allowed to cool. Ethyl acetate (5 ml) added, solution washed with water (2×5 ml) and saturated aqueous sodium chloride solution (5 ml). The solution was dried over anhydrous magnesium sulphate and concentrated. The crude products were purified by column chromatography, silica, eluting with ethyl acetate in hexane (gradient 25% to 45% ethyl acetate) to give 2,4-dihydroxy-5-[4-(4-methoxy-phenyl)-3-methyl-isoxazol-5-yl]-benzoic acid methyl ester (7.0 mg).

reactant | Ammonium formate | 172 mg, 20 eq | C(=O)[O-].[NH4+]
reactant | 2,4-Bis-benzyloxy-5-[4-(4-methoxy-phenyl)-3-methyl-isoxazol-5-yl]-benzoic acid methyl ester | 0.13 mmol, 72 mg | COC(C1=C(C=C(C(=C1)C1=C(C(=NO1)C)C1=CC=C(C=C1)OC)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O | C33H29NO6
reactant | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
reactant | Ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 2 ml | CO | CH4O
catalyst | Palladium on carbon | [Pd] | Pd
product | 2,4-dihydroxy-5-[4-(4-methoxy-phenyl)-3-methyl-isoxazol-5-yl]-benzoic acid methyl ester | 7.0 mg | COC(C1=C(C=C(C(=C1)C1=C(C(=NO1)C)C1=CC=C(C=C1)OC)O)O)=O | C19H17NO6
